US09102614B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-((dimethyl-amino)methyl)naphthalen-2-yl)acetate:
To a solution of (S)-ethyl 2-(3-(bromomethyl)-1-(4-chlorophenyl)naphthalen-2-yl)-2-tert-butoxyacetate (12 mg, 0.0245 mmol) in THF (1 mL) was added dimethylamine (2 M in THF, 0.12 μL). The reaction mixture was stirred at room temperature for 1 h. Removal of the solvent in vacuo followed by purification of the residue by flash chromatography (silica gel, ethyl acetate/hexanes) provided 8 mg of the desired product. LCMS-ESI+ (m/z): [M+H]+ calcd for C27H33ClNO3: 454.2. Found: 454.2, 456.1.

reactant | (S)-ethyl 2-(3-(bromomethyl)-1-(4-chlorophenyl)naphthalen-2-yl)-2-tert-butoxyacetate | 0.0245 mmol, 12 mg | BrCC=1C(=C(C2=CC=CC=C2C1)C1=CC=C(C=C1)Cl)[C@@H](C(=O)OCC)OC(C)(C)C | C25H26BrClO3
reactant | dimethylamine | 2 M, 0.12 μL | CNC | C2H7N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-((dimethyl-amino)methyl)naphthalen-2-yl)acetate | 8 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=CC=C2C=C1CN(C)C)C1=CC=C(C=C1)Cl | C27H32ClNO3
